US09029295B2
The procedure was performed by the method similar to Production Example 21 using 4-(2,6-diethyl-4-methylphenyl)-6-dodecylsulfonyl-5-hydroxy-2-methyl-3(2H)-pyridazinone and 4-methoxybenzyl chloride as a starting material to give 4-(2,6-diethyl-4-methylphenyl)-6-dodecylsulfonyl-5-(4-methoxybenzyl)oxy-2-methyl-3(2H)-pyridazinone (yield: 57%).

reactant | 4-(2,6-diethyl-4-methylphenyl)-6-dodecylsulfonyl-5-hydroxy-2-methyl-3(2H)-pyridazinone | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1O)S(=O)(=O)CCCCCCCCCCCC)C)=O | C28H44N2O4S
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 4-(2,6-diethyl-4-methylphenyl)-6-dodecylsulfonyl-5-(4-methoxybenzyl)oxy-2-methyl-3(2H)-pyridazinone | yield: 57% | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1OCC1=CC=C(C=C1)OC)S(=O)(=O)CCCCCCCCCCCC)C)=O | C36H52N2O5S
